US04999378
(3) 4-[3-[N-(4-Chlorophenyl)amino]-2-methylpropoxy]benzoic acid
Methyl 4-[3 [N-[4-chlorophenyl)amino]-2-methylpropoxy]benzoate (2.80 g) was dissolved in methanol (30 ml) and thereto was added a solution of sodium hydroxide (1.00 g) in water (8 ml), and the mixture was heated with stirring at 60° C. for 15 hours. The reaction mixture was cooled and thereto was added conc. hydrochloric acid (2.20 ml), and the mixture was concentrated under reduced pressure. To the residue was added water and it was crushed, and was collected by filtration. The resultant was dissolved in methanol, and filtered. Water (about half volume of the filtrate) was added to the filtrate gradually, and the resulting crystal was collected by filtration to give the desired product (2.16 g). mp. 148°-150° C.

reactant | Methyl 4-[3 [N-[4-chlorophenyl)amino]-2-methylpropoxy]benzoate | 2.80 g | ClC1=CC=C(C=C1)NCC(COC1=CC=C(C(=O)OC)C=C1)C | C18H20ClNO3
reactant | sodium hydroxide | 1.00 g | [OH-].[Na+]
reactant | hydrochloric acid | 2.20 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 4-[3-[N-(4-Chlorophenyl)amino]-2-methylpropoxy]benzoic acid | 2.16 g | ClC1=CC=C(C=C1)NCC(COC1=CC=C(C(=O)O)C=C1)C | C17H18ClNO3
